US09212192B2
tert-butyl 4-(2-chloro-4-nitrophenyl)piperazine-1-carboxylate
A mixture of 1-bromo-2-chloro-4-nitrobenzene (1 g, 4.2 mmol), tert-butyl piperazine-1-carboxylate (0.86 g, 4.6 mmol), potassium carbonate (878 mg, 6.4 mmol) and tetrabutyl ammonium bromide (137 mg, 0.42 mmol) in dimethylsulfoxide (20 mL) was heated at 125° C. for 3 hours. After cooling to ambient temperature, the mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated. The residue was purified by flash chromatography on silica gel eluting with 5/1 petroleum ether/ethyl acetate to give the title compound. MS: 342 (M+H+)

reactant | 1-bromo-2-chloro-4-nitrobenzene | 4.2 mmol, 1 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C6H3BrClNO2
reactant | tert-butyl piperazine-1-carboxylate | 4.6 mmol, 0.86 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | potassium carbonate | 6.4 mmol, 878 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutyl ammonium bromide | 0.42 mmol, 137 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylsulfoxide | 20 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | tert-butyl 4-(2-chloro-4-nitrophenyl)piperazine-1-carboxylate | ClC1=C(C=CC(=C1)[N+](=O)[O-])N1CCN(CC1)C(=O)OC(C)(C)C | C15H20ClN3O4
